US05872137
To a mixture of 2.87 g of 1-benzoyloxy-4-(2-chlorobenzyloxy)-3,5-dichlorobenzene and 100 ml of methanol was added dropwise 5.1 g of 10% (w/w) aqueous potassium hydroxide solution, while stirring at room temperature. After stirring at room temperature for 6 hours, the reaction mixture was made weakly acidic by the addition of 10% hydrochloric acid, and the methanol was removed by distillation under reduced pressure. The residue was extracted twice with 100 ml of ethyl acetate. The combined ether layer was washed with water, and dried with anhydrous magnesium sulfate, followed by removal of the solvent by distillation under reduced pressure. The residue was subjected to silica gel chromatography, which afforded 1.17 g of 4-(2-chlorobenzyloxy)-3,5-dichlorophenol (55% yield), m.p. 108.3° C.

reactant | 1-benzoyloxy-4-(2-chlorobenzyloxy)-3,5-dichlorobenzene | 2.87 g | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C(=C1)Cl)OCC1=C(C=CC=C1)Cl)Cl | C20H13Cl3O3
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 4-(2-chlorobenzyloxy)-3,5-dichlorophenol | 1.17 g, 55% yield | ClC1=C(COC2=C(C=C(C=C2Cl)O)Cl)C=CC=C1 | C13H9Cl3O2
